US07335799B2
Under Ar atmosphere, to a suspension of LiAlH4 (7.90 g, 208 mmol) in MTBE (200 mL) was added dropwise a solution of 3-{3-[3-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester (25.9 g, 59 mmol) in MTBE (150 mL). The reaction mixture was stirred at room temperature for 16 h and heated to reflux for 3 h. Ethyl acetate (100 mL) was added and the reaction mixture was heated to reflux for 1 h and cooled to room temperature. The reaction mixture was poured into ice (500 g) and acidified with hydrochloric acid solution (2 N, 800 mL). The aqueous solution was extracted with MTBE (4×200 mL). The combined organic layers were washed with saturated NaHCO3 solution (200 mL) and saturated NaCl solution (200 mL), dried over MgSO4, and concentrated under vacuum. The residue (22.6 g) was subjected to column chromatography on silica gel using hexanes/ethyl acetate (3:2) as eluent to afford 3-(3-{hydroxy-[3-(3-hydroxy-2,2-dimethylpropyl)-phenyl]-methyl}-phenyl)-2,2-dimethylpropan-1-ol (19.0 g, 90%) as a white solid. Mp 98-99° C. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.26-7.19 (m, 6H), 7.06-7.03 (m, 2H), 5.80 (d, 1H, J=3.4 Hz), 3.23 (s, 4H), 3.05 (d, 1H, J=3.4 Hz), 2.56 (s, 4H), 2.07 (br d, 2H, J=4.4 Hz), 0.85 (s, 12H). 13C NMR (75 MHz, CD3OD=49.15 ppm): δ (ppm): 145.5, 140.2, 130.5, 130.1, 128.7, 125.4, 77.1, 71.5, 45.6, 37.4, 24.6, 24.5. HRMS (FAB, gly): Calcd for C23H33O3 (M+H): 357.2430, found: 357.2388. HPLC: 99.8% pure.

reactant | LiAlH4 | 208 mmol, 7.90 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-{3-[3-(2-ethoxycarbonyl-2-methylpropyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester | 59 mmol, 25.9 g | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 N, 800 mL | Cl | ClH
solvent | MTBE | 200 mL | CC(C)(C)OC | C5H12O
solvent | MTBE | 150 mL | CC(C)(C)OC | C5H12O
product | 3-(3-{hydroxy-[3-(3-hydroxy-2,2-dimethylpropyl)-phenyl]-methyl}-phenyl)-2,2-dimethylpropan-1-ol | 19.0 g, 90% | OC(C=1C=C(C=CC1)CC(CO)(C)C)C1=CC(=CC=C1)CC(CO)(C)C | C23H32O3
